US04977166
The B isomer of 1-[2-(3,4-dihydro-1(2H)-benzopyran-4-yl)ethyl]-4-(3,4-dimethoxyphenyl)piperidine fumarate is prepared by following the procedure of Example 16 but starting with the B isomer of 4-(2-bromoethyl)-3,4-dihydro-(2H)-benzopyran (1.5 g) and 4-(3,4-dimethoxyphenyl)piperidine dihydrochloride (1.78 g), followed by potassium carbonate (1.71 g) and potassium iodide (1.03 g) in 2-butanone (50 cc).

reactant | 4-(2-bromoethyl)-3,4-dihydro-(2H)-benzopyran | 1.5 g | BrCCC1CCOC2=C1C=CC=C2 | C11H13BrO
reactant | 4-(3,4-dimethoxyphenyl)piperidine dihydrochloride | 1.78 g | Cl.Cl.COC=1C=C(C=CC1OC)C1CCNCC1
reactant | potassium carbonate | 1.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.03 g | [I-].[K+]
solvent | 2-butanone | 50 cc | CC(CC)=O | C4H8O
product | 1-[2-(3,4-dihydro-1(2H)-benzopyran-4-yl)ethyl]-4-(3,4-dimethoxyphenyl)piperidine fumarate | C(\C=C\C(=O)O)(=O)O.O1CCC(C2=C1C=CC=C2)CCN2CCC(CC2)C2=CC(=C(C=C2)OC)OC | InChI=1S/C24H31NO3.C4H4O4/c1-26-23-8-7-20(17-24(23)27-2)18-9-13-25(14-10-18)15-11-19-12-16-28-22-6-4-3-5-21(19)22;5-3(6)1-2-4(7)8/h3-8,17-19H,9-16H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
